US08053438B2
To a round bottomed flask was added 4-(3-chloropyrazin-2-yloxy)aniline (1.2276 g, 5.54 mmol) dissolved in a mixture of THF (8.86 mL) and NMP (2.215 mL). Iron(iii) acetylacetonate (0.098 g, 0.277 mmol) was added and the temperature was brought to 0° C. (Tetrahydro-2H-pyran-4-yl)magnesium chloride (8.31 mL, 6.65 mmol) was added dropwise to the reaction mixture. Upon completion, the reaction was quenched with saturated ammonia chloride solution. The reaction mixture was diluted with water and extracted with EtOAc. The organic extract was washed with water, brine, dried with magnesium sulfate, filtered, and concentrated. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (120 g), eluting with a gradient of 10% to 100% EtOAc in hexane, to provide 4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)aniline.

reactant | 4-(3-chloropyrazin-2-yloxy)aniline | 5.54 mmol, 1.2276 g | ClC=1C(=NC=CN1)OC1=CC=C(N)C=C1 | C10H8ClN3O
reactant | (Tetrahydro-2H-pyran-4-yl)magnesium chloride | 6.65 mmol, 8.31 mL | O1CCC(CC1)[Mg]Cl
solvent | THF | 8.86 mL | C1CCOC1 | C4H8O
solvent | NMP | 2.215 mL | CN1CCCC1=O | C5H9NO
catalyst | Iron(iii) acetylacetonate | 0.277 mmol, 0.098 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Fe+3]
product | 4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)aniline | O1CCC(CC1)C=1C(=NC=CN1)OC1=CC=C(N)C=C1 | C15H17N3O2
